US08530648B2
a) (3-(5-methyloxazol-2-yl)phenyl)methanol
To a stirred suspension of LiAlH4 (0.29 g, 7.41 mmol) in THF (12 mL) a solution of 3-(5-methyloxazol-2-yl)benzoic acid [628297-39-2] (1.21 g, 5.84 mmol) in THF (3 mL) was added dropwise at 25° C. (exothermic) and the mixture was stirred at 35° C. for 30 min. The mixture was poured into 1N aqueous HCl solution and extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash-column chromatography over silicagel (eluent: gradient 10%-100% ethyl acetate/heptane) to yield the title compound (0.88 g, 80%). [1H NMR (400 MHz, CHLOROFORM-d) ♀ ppm 8.00 (s, 1H), 7.87-7.93 (m, 1H), 7.42 (d, J=4.8 Hz, 2H), 6.82 (s, 1H), 4.75 (br. s., 2H), 2.39 (s, 3H); LCMS RtA=0.75, [M+H]+=190.1].

reactant | LiAlH4 | 7.41 mmol, 0.29 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(5-methyloxazol-2-yl)benzoic acid | 5.84 mmol, 1.21 g | CC1=CN=C(O1)C=1C=C(C(=O)O)C=CC1 | C11H9NO3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (3-(5-methyloxazol-2-yl)phenyl)methanol | 0.88 g, 80% | CC1=CN=C(O1)C=1C=C(C=CC1)CO | C11H11NO2
